US04760069
6-Methyloximino-17-methyl-4,5α-epoxy-3,14-dihydroxymorphinan
A solution of oxymorphone (0.9 g, 3 mmol) and O-methyl hydroxylamine hydrochloride (0.33 g, 3.9 mmol) in 15 mL MeOH containing 1.6 mL of 10% aqueous NaOH was refluxed for 5 h, cooled, diluted with water (approximately 100 mL) and extracted with 150 mL CHCl3 (3×50 mL). The combined extracts were dried (MgSO4), and evaporated. The residue obtained was recrystallized from CH2Cl2 -hexane to yield 0.84 g on the product. It was further purified by flash column chromatography on silica gel, eluting with EtOAc-EtOH-NH4OH (100:1:1) (approx. size 40 microns). The combined fractions were evaporated in vacuo and the residue obtained was recrystallized from hexane-petroleum ether. Yield: 0.4 g (40%). mp 115°-116° C. IR: (KBr): No C=O absorption at 1730 cm-1. H NMR (CDCl3)δ4.92 (s,C5H), 3.85 (s, OCH3) Rf: silica gel 60 in EtOAc-EtOH-NH4OH (100:1:1) 0.30. Anal. Calcd for: C18H22N2O4 : C, 65.44; H, 6.71; N, 8.48. Found: C, 65.51; H, 6.74; N, 8.46.

reactant | oxymorphone | 3 mmol, 0.9 g | CN1CC[C@]23C=4C5=CC=C(C4O[C@H]2C(=O)CC[C@]3([C@H]1C5)O)O | C17H19NO4
reactant | O-methyl hydroxylamine hydrochloride | 3.9 mmol, 0.33 g | Cl.CON
reactant | NaOH | [OH-].[Na+]
reactant | MeOH | 15 mL | CO | CH4O
solvent | water | approximately 100 mL | O | H2O
product | 6-Methyloximino-17-methyl-4,5α-epoxy-3,14-dihydroxymorphinan | CC1[C@H]2[C@]34C=5C(=C(C=CC5C[C@H]([C@@]3(CC1=NO)O)N(CC4)C)O)O2 | C18H22N2O4
